US07105533B2
A solution of 3-methyoxy-4-pyridin-2-ylbenzonitrile (600 mg, 2.64 mmol) in CH2Cl2 (10 mL) was cooled to −78° C. and was treated with diisobutylalumnium hydride (3.2 mL of 1M in CH2Cl2, 3.2 mmol). After stirring the reaction mixture at −78° C. for 2 h, the temperature was raised to −40° C. before quenching the reaction with a mixture of silica gel (6 g) and water (2 mL) and then warmed to rt. The reaction mixture was dried (K2CO3 and MgSO4), and concentrated. The residue was purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:4 to 1:1) to afford 3-methoxy-4-pyridin-2-ylbenzaldehyde.

reactant | 3-methyoxy-4-pyridin-2-ylbenzonitrile | 2.64 mmol, 600 mg | COC=1C=C(C#N)C=CC1C1=NC=CC=C1 | C13H10N2O
reactant | hydride | 3.2 mmol, 1M, 3.2 mL | [H-]
reactant | water | 2 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4-pyridin-2-ylbenzaldehyde | COC=1C=C(C=O)C=CC1C1=NC=CC=C1 | C13H11NO2
